US07576091B2
2-Methyl-6-morpholin-4-ylmethylene-5,6-dihydro-4H-benzothiazol-7-one
To a solution of 2-methyl-7-oxo-4,5,6,7-tetrahydro-benzothiazole-6-carbaldehyde (2.0 g, 10.2 mmol) in dry toluene (8.1 mL), morpholine (1.0 mL, 1.0 g, 11.3 mmol) was added. The reaction mixture was heated under reflux for 2 h. On cooling a brown precipitate formed. The solvent was removed under vacuum and the brown solid residue was fractionated by flash column chromatography (20% EtOAc:hexane) to leave a yellow solid that was purified further by crystallisation from EtOH to afford the pure title product as yellow crystals (2.4 g, 87%): mp 186-187° C. Anal. RP-HPLC: tR 12.7 min (0-60% MeCN, purity 100%). 1H-NMR (CDCl3): δ 7.50 (s, 1H, CH), 3.80 (t, 4H, J 4.6), 3.55 (t, 4H, J 4.6), 3.00 (m, 4H, CH2—CH2), 2.80 (s, 3H, CH3). 13C-NMR (CDCl3): δ 182.0, 171.6, 162.3, 147.9, 133.2, 103.3, 67.0, 51.4, 26.7, 24.9, 20.2. MS (ESI+): m/z 287.05 (M+Na)+, 265.07 (M+H)+. Anal. (C13H16N2O2S)C, H, N.

reactant | 2-methyl-7-oxo-4,5,6,7-tetrahydro-benzothiazole-6-carbaldehyde | 10.2 mmol, 2.0 g | CC=1SC2=C(N1)CCC(C2=O)C=O | C9H9NO2S
reactant | morpholine | 11.3 mmol, 1.0 mL, 1.0 g | N1CCOCC1 | C4H9NO
solvent | toluene | 8.1 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Methyl-6-morpholin-4-ylmethylene-5,6-dihydro-4H-benzothiazol-7-one | 2.4 g, 87% | CC=1SC2=C(N1)CCC(C2=O)=CN2CCOCC2 | C13H16N2O2S
